US07700605B2
A solution of [3′-(4-cyano-[1,3,5]triazin-2-ylamino) -biphenyl-4-ylmethyl]-carbamic acid tert-butyl ester (43 mg) in formic acid (1 ml) is stirred at 5° C. for 4.5 h. This solution is evaporated under reduced pressure. The remaining oil is treated with diethyl ether to obtain crystals of 4-(4′-aminomethyl-biphenyl-3-ylamino)-[1,3,5]triazine-2-carbonitrile, salt with formic acid.

reactant | [3′-(4-cyano-[1,3,5]triazin-2-ylamino) -biphenyl-4-ylmethyl]-carbamic acid tert-butyl ester | 43 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CC(=CC=C1)NC1=NC=NC(=N1)C#N)=O | C22H22N6O2
solvent | formic acid | 1 ml | C(=O)O | CH2O2
product | 4-(4′-aminomethyl-biphenyl-3-ylamino)-[1,3,5]triazine-2-carbonitrile | NCC1=CC=C(C=C1)C1=CC(=CC=C1)NC1=NC(=NC=N1)C#N | C17H14N6
